US09315493B2
Process 2: Sodium hydrogen carbonate (2.02 mg, 24.0 mmol) was added to dimethyl sulfoxide solution (20 mL) of hydroxylamine hydrochloride (1.42 g, 20.4 mmol) and stirred for 1 hour at 40° C. Dimethyl sulfoxide solution (3 mL) of 2-{5-{[4-butyl-2-methyl-6-oxo-1-(pyridin-2-yl)-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}benzonitrile (430 mg, 0.987 mmol) was added to the reaction mixture and stirred for 19 hours at 90° C. The reaction mixture was added water and extracted with ethyl acetate. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The obtained residues were subjected to silica gel column chromatography (ethyl acetate) to give 2-{5-{[4-butyl-2-methyl-6-oxo-1-(pyridin-2-yl)-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}-N′-hydroxybenzimidamide (430 mg, 93%) as a white solid.

reactant | Sodium hydrogen carbonate | 24.0 mmol, 2.02 mg | C(O)([O-])=O.[Na+]
reactant | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
reactant | hydroxylamine hydrochloride | 20.4 mmol, 1.42 g | Cl.NO
reactant | Dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
reactant | 2-{5-{[4-butyl-2-methyl-6-oxo-1-(pyridin-2-yl)-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}benzonitrile | 0.987 mmol, 430 mg | C(CCC)C=1N=C(N(C(C1CC=1C=CC(=NC1)C1=C(C#N)C=CC=C1)=O)C1=NC=CC=C1)C | C27H25N5O
solvent | water | O | H2O
product | 2-{5-{[4-butyl-2-methyl-6-oxo-1-(pyridin-2-yl)-1,6-dihydropyrimidin-5-yl]methyl}pyridin-2-yl}-N′-hydroxybenzimidamide | 430 mg, 93% | C(CCC)C=1N=C(N(C(C1CC=1C=CC(=NC1)C1=C(C(N)=NO)C=CC=C1)=O)C1=NC=CC=C1)C | C27H28N6O2
